US09029402B2
To a solution of (4-methoxy-phenyl)-acetic acid ethyl ester (25.96 g, 133.7 mmol) in anhydrous tetrahydrofuran (200 mL) was added lithium hexamethyldisilazide (200 mL, 1 M) at −78° C. under nitrogen. After being stirred for 15 min., a solution of A-5 (4-cyano-2-methylbenzoyl chloride) (24 g, 133.6 mmol) in anhydrous tetrahydrofuran (150 mL) was added dropwise, and the resulting mixture was stirred at room temperature overnight for 16 h. The reaction mixture was quenched by the addition of saturated aqueous ammonium chloride solution (200 mL), and the resultant mixture was extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous sodium sulfate (20 g), filtered, and evaporated. The residue was purified on silica gel column (petroleum ether/ethyl acetate=25:1) to give A-6 (ethyl 3-(4-cyano-2-methylphenyl)-2-(4-methoxyphenyl)-3-oxopropanoate) (40 g, yield 88.7%).

reactant | (4-methoxy-phenyl)-acetic acid ethyl ester | 133.7 mmol, 25.96 g | C(C)OC(CC1=CC=C(C=C1)OC)=O | C11H14O3
reactant | lithium hexamethyldisilazide | 1 M, 200 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-cyano-2-methylbenzoyl chloride | C(#N)C1=CC(=C(C(=O)Cl)C=C1)C | C9H6ClNO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | ethyl 3-(4-cyano-2-methylphenyl)-2-(4-methoxyphenyl)-3-oxopropanoate | yield 88.7% | C(#N)C1=CC(=C(C=C1)C(C(C(=O)OCC)C1=CC=C(C=C1)OC)=O)C | C20H19NO4
